US07192943B2
To a solution of 3-[(tert-butoxycarbonyl)amino]-2-{[(tert-butoxycarbonyl)amino]methyl}propanoic acid (476 mg) in methylene chloride (6 ml) were added hydroxybenzotriazole (222 mg) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (573 mg), and the mixture was stirred for 10 minutes. 1-Methyl-N5-trityl-1H-pyrazole-4,5-diamine (530 mg) was added to the above mixture, and the whole mixture was stirred at room temperature for 1 hour. Water was added to the mixture and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give tert-butyl (2-{[(tert-butoxycarbonyl)amino]methyl}-3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropyl)carbamate (270 mg).

reactant | 3-[(tert-butoxycarbonyl)amino]-2-{[(tert-butoxycarbonyl)amino]methyl}propanoic acid | 476 mg | C(C)(C)(C)OC(=O)NCC(C(=O)O)CNC(=O)OC(C)(C)C | C14H26N2O6
reactant | hydroxybenzotriazole | 222 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 573 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-Methyl-N5-trityl-1H-pyrazole-4,5-diamine | 530 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C23H22N4
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | tert-butyl (2-{[(tert-butoxycarbonyl)amino]methyl}-3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropyl)carbamate | 270 mg | C(C)(C)(C)OC(=O)NCC(CNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C37H46N6O5
